US09193707B2
5. Synthesis of 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinoline
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinolin-1-one (1 g, 3.53 mmol, 1.00 equiv), oxolane (20 mL) and LiAlH4 (400 mg, 11.79 mmol, 3.00 equiv). The resulting solution was heated to reflux for 2 hr. The reaction mixture was cooled to 0° C. with a water/ice bath. The reaction was then quenched by the addition of 0.4 mL of water. The solids were filtered out. The resulting mixture was concentrated under vacuum. This resulted in 0.8 g (crude) of 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinoline as light yellow oil. MS (ESI) m/z 270 ([M+H]+).

reactant | 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinolin-1-one | 3.53 mmol, 1 g, 1.00 equiv | C(C1=CC=CC=C1)OC1=C2CCNC(C2=CC=C1OC)=O | C17H17NO3
reactant | LiAlH4 | 11.79 mmol, 400 mg, 3.00 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | oxolane | 20 mL | O1CCCC1 | C4H8O
product | 5-(benzyloxy)-6-methoxy-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)OC1=C2CCNCC2=CC=C1OC | C17H19NO2
